US08835420B2
(S)-2-Amino-4-methyl-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-4-Methyl-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile (15 mg, 0.033 mmol) in dioxane (2 mL) was combined with ammonia in dioxane 0.5 M (0.198 mL, 0.099 mmol) to give a yellow solution, which was stirred for 6 hours at room temperature. The product was purified by LC/MS using a 20-45% CH3CN gradient in H2O with 0.035% formic acid. The pure fractions were combined and lyophilized to give a formic acid salt of the title compound as a white solid (2 mg, 17%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.34-1.47 (m, 3 H), 2.17-2.28 (m, 3 H), 2.70-2.85 (m, 2 H), 2.96-3.13 (m, 2 H), 3.67-3.92 (m, 8 H), 5.82-5.97 (m, 1 H), 6.45-6.59 (m, 1 H), 6.87-6.98 (m, 2 H), 7.52-7.62 (m, 1 H), 7.82-7.91 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C20H24N8O3S, 393.4; found 393.4.

reactant | (S)-4-Methyl-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | 0.033 mmol, 15 mg | CC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)S(=O)(=O)C | C21H25N7O3S
reactant | ammonia | N | H3N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.099 mmol, 0.5 M, 0.198 mL | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-4-methyl-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 2 mg, 17% | NC1=NC(=C(C(=N1)C)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2 | C20H24N8O
